US05476944
trans-2-(phenylthio)cyclohexanol (6)
Thiophenol (2.14 g, 0.0194 mole) was added to freshly prepared sodium ethoxide (sodium, 0.45 g) in ethanol (30 ml). After several minutes, cyclohexene oxide was added, and the reaction mixture was stirred at room temperature for 24 hours. The reaction mixture was concentrated with a gentle flow of nitrogen gas. The residue was dissolved in diethyl ether (75 ml) and washed with in hydrochloric acid (19 ml). The diethyl ether was washed three times with 50 ml of 5% sodium carbonate, once with 0.5N hydrochloric acid (50 ml) and once with brine (25 ml), dried over anhydrous magnesium sulphate, filtered and concentrated with a rotary evaporator to give the product as an oil. The structure was supported by NMR and infrared spectroscopy.

reactant | Thiophenol | 0.0194 mole, 2.14 g | C1(=CC=CC=C1)S | C6H6S
reactant | sodium ethoxide | 0.45 g | [O-]CC.[Na+]
reactant | cyclohexene oxide | C12C(CCCC1)O2 | C6H10O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | trans-2-(phenylthio)cyclohexanol | C1(=CC=CC=C1)S[C@H]1[C@@H](CCCC1)O | C12H16OS
